US05091393
0.96 g (9 mmol) of sodium carbonate, 1.35 g (9 mmol) of sodium iodide and 2.1 g (9 mmol) of 2-(3-chloropropyl)-2-cyclohexyl-1,3-dioxolane were added to a solution of 1.7 g (8.3 mmol) of 2,5-dimethyl-3-(4-hydroxyphenyl)piperidine in 10 ml of dimethylformamide and the resulting reaction mixture was stirred at a temperature of 80° C. for 16 hours. After cooling, the reaction mixture was poured on ice and extracted three times with ethyl acetate. After evaporating the organic layer under reduced pressure, the residue was dissolved in a mixture of 20 ml of dimethylformamide and 40 ml of 2N hydrochloric acid and stirred for 1 hour so as to split the dioxolane group present. The solution was then extracted three times with diethyl ether, rendered basic by the addition of concentrated ammonia and extracted three times with ethyl acetate. The resulting organic layer was washed three times with water and once with a concentrated saline solution, dried on sodium sulphate an evaporated under reduced pressure. The resulting crude product (2.3 g) was purified by means of flash chromatography over 75 g of silicagel (Merck, grain size 0.040-0.063 mm) using a mixture of dichloromethane, methanol and concentrated ammonia (95:4.5:0.5) as an eluent. After combining and evaporating the desired fractions, totally 1.2 g (46%) of 1-(4-cyclohexyl-4 -oxobutyl)-2,5-dimethyl-3-(4-hydroxyphenyl)piperidine were obtained (compound no. 1).

reactant | sodium carbonate | 9 mmol, 0.96 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 9 mmol, 1.35 g | [I-].[Na+]
reactant | 2-(3-chloropropyl)-2-cyclohexyl-1,3-dioxolane | 9 mmol, 2.1 g | ClCCCC1(OCCO1)C1CCCCC1 | C12H21ClO2
reactant | 2,5-dimethyl-3-(4-hydroxyphenyl)piperidine | 8.3 mmol, 1.7 g | CC1NCC(CC1C1=CC=C(C=C1)O)C | C13H19NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-cyclohexyl-4 -oxobutyl)-2,5-dimethyl-3-(4-hydroxyphenyl)piperidine | 1.2 g, 46% | C1(CCCCC1)C(CCCN1C(C(CC(C1)C)C1=CC=C(C=C1)O)C)=O | C23H35NO2
